US04405631
A solution of 7.04 g of potassium t-butoxide (62.9 mmole) in 20 ml of dry DMF was added dropwise to a chilled solution of 10 g of 1-acetyl-4-ethynyl-4-hydroxypiperidine (59.9 mmole) in 75 ml of dry DMF, at such a rate as to maintain the temperature at 10° C. The mixture was allowed to equilibrate at 10° C. for 15 min. after which time it was cooled to -20° C. To this solution was added 9.73 g of 2,5-difluorobenzylchloride (59.9 mmole) at such a rate as to maintain the temperature around -20° C. After complete addition, the reaction mixture was warmed to 0° C. and allowed to react for 1 hr. The reaction appeared to be complete by GLC and was quenched with ice and water. The products were extracted into ether and dried over K2CO3. After filtration, the solvent was removed under vacuum. The crystalline product was recrystallized from cyclohexane and dried, affording 10.5 g of 1-acetyl-4-ethynyl-4-(2,5-difluorophenylmethoxy)piperidine (35.8 mmole, 59.83%). This material appeared pure by GLC (99% on OV225, temperature program: 200° C. (2 min), rate=25° C./min, 250° C. (15 min), flow=30 ml/min tR =4.00 min) and by TLC on silica gel in hexane:ethylacetate (1:1), Rf =0.2. MS (ci MH+ =294), NMR-CDCl3 and IR=CHCl3 were consistent with the structure; m.p.=90°-93° C.

reactant | potassium t-butoxide | 62.9 mmole, 7.04 g | CC(C)([O-])C.[K+]
reactant | 1-acetyl-4-ethynyl-4-hydroxypiperidine | 59.9 mmole, 10 g | C(C)(=O)N1CCC(CC1)(O)C#C | C9H13NO2
reactant | 2,5-difluorobenzylchloride | 59.9 mmole, 9.73 g | FC1=C(CCl)C=C(C=C1)F | C7H5ClF2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 1-acetyl-4-ethynyl-4-(2,5-difluorophenylmethoxy)piperidine | 35.8 mmole, 10.5 g, 59.83% | C(C)(=O)N1CCC(CC1)(OCC1=C(C=CC(=C1)F)F)C#C | C16H17F2NO2
